US07338960B2
Ethyl ({2-methyl-4-[(3-methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}butyl)oxy]phenyl}oxy)acetate
A solution of 3-methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-butanol (180 mg, 0.58 mmol) in dry THF (12 mL) under nitrogen was treated with ethyl (4-hydroxy-2-methylphenoxy)acetate (122 mg, 0.58 mmol) and cooled to 0° C. This was treated portion-wise with ADDP (0.3 g, 1.2 mmol), then drop-wise with nBu3P (0.29 mL, 1.2 mmol). The resulting pale yellow suspension allowed to warm to rt slowly over 16 hours. The solvent was removed under vacuum and the residue partitioned between EtOAc (60 mL) and water (60 mL) and the layers separated. The aqueous was re-extracted with EtOAc (60 mL) and the combined organic layer dried (Na2SO4) and reduced. Purification by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient 99:1 to 49:1) gave the title compound as a colourless oil (137 mg).

reactant | 3-methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-butanol | 0.58 mmol, 180 mg | CC(CC(O)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H18F3NO
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 0.58 mmol, 122 mg | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
reactant | ADDP | 1.2 mmol, 0.3 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | nBu3P | 1.2 mmol, 0.29 mL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | Ethyl ({2-methyl-4-[(3-methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}butyl)oxy]phenyl}oxy)acetate | 137 mg | CC1=C(C=CC(=C1)OC(CC(C)C)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C28H30F3NO4
